US07776869B2
Step 5: N,N-Diethyl-2-(4-amino-3-methoxyphenoxy)ethylamine
N,N-Diethyl-2-(3-methoxy-4-nitrophenoxy)ethylamine (140 mg, 0.5 mmol) was hydrogenated over Pd (5% on C, 50% wet, 40 mg) in ethanol (5 ml) for 16 hours. The catalyst was filtered off and the solvent removed under reduced pressure to afford the title compound as a brown oil. MS (m/z)=239 (M+H+); Calc'd for C13H22N2O2=238.33

reactant | N,N-Diethyl-2-(3-methoxy-4-nitrophenoxy)ethylamine | 0.5 mmol, 140 mg | C(C)N(CC)CCOC1=CC(=C(C=C1)[N+](=O)[O-])OC | C13H20N2O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Pd | 40 mg | [Pd] | Pd
product | N,N-Diethyl-2-(4-amino-3-methoxyphenoxy)ethylamine | C(C)N(CC)CCOC1=CC(=C(C=C1)N)OC | C13H22N2O2
